US04645771
N-Bromosuccinimide (60.0 g.) was added in portions during 40 minutes to a solution of 4-acetoxytoluene (50.0 g.) and 2,2'-azobis(2-methylpropionitrile) (10 mg.) in carbon tetrachloride (300 ml.) heated under reflux and illuminated by a high energy tungsten lamp (275 watt). Heating and illumination were continuted for 80 minutes after the addition was complete. The mixture was then cooled and filtered. The solid residue was washed with carbon tetrachloride (100 ml.) and the combined filtrate and washings were evaporated to give 4-acetoxybenzyl bromide as a syrupy solid, which was dissolved, without further purification, in ethanol (300 ml.). 1,2,3,6-Tetrahydropyridine (83.0 g.) was then added to the solution during 10 minutes. The subsequent mixture was left at 20°-25° C. for 16 hours, and then evaporated. Water (300 ml.) was added to the residue obtained and the subsequent mixture was acidified to pH2 with dilute hydrochloric acid, and then extracted with ether (2×100 ml.) and the extracts discarded. The aqueous phase was basified to pH9 (sodium hydroxide solution) and extracted with ether (3×100 ml.). The extracts were washed with water (2×50 ml.), dried (MgSO4) and evaporated. The residue was dissolved in acetone (200 ml.), the solution obtained was filtered, and the filtrate acidified to pH2 with ethereal hydrogen chloride. There was thus obtained 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride which was recrystallised from methanol/ethyl acetate to give pure material (34.6 g.), m.p. 234°-236° C.

reactant | N-Bromosuccinimide | 60.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-acetoxytoluene | 50.0 g | C(C)(=O)OC1=CC=C(C=C1)C | C9H10O2
reactant | 2,2'-azobis(2-methylpropionitrile) | 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-acetoxybenzyl bromide | C(C)(=O)OC1=CC=C(CBr)C=C1 | C9H9BrO2
